US03984465
2-Methyl-2-propargyl-5-methoxy-6,7-dichloro-1-indanone is prepared by following substantially the same procedure described in Example 4, Step B, using the following reagents: 2-methyl-5-methoxy-6,7-dichloro-1-indanone (14.7 g., 0.06 mole), sodium hydride (1.72 g., 0.072 mole), 1,2-dimethoxyethane (500 ml.) and propargyl bromide (8 ml.). The above procedure gives 16.5 g. (97%) of 2-methyl-2-propargyl-5-methoxy-6,7-dichloro-1-indanone which after recrystallization from methyl cyclohexane melts at 118°C.

reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.06 mole, 14.7 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | sodium hydride | 0.072 mole, 1.72 g | [H-].[Na+]
reactant | propargyl bromide | 8 ml | C(C#C)Br | C3H3Br
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2-Methyl-2-propargyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)CC#C | C14H12Cl2O2
